US09126981B2
Synthesis of 2-(3-(naphthalen-1-ylmethyl)ureidooxy)acetic Acid (Compound VI-11)
According to the procedure described in the synthesis method of Compound VI-9, tert-butyl 2-(3-(naphthalen-1-ylmethyl)ureidooxy)acetate (Compound V-7) (50 mg, 0.15 mmol) was reacted with 4N HCl/dioxane (2 ml) to obtain the title compound (41 mg, 100%).

reactant | tert-butyl 2-(3-(naphthalen-1-ylmethyl)ureidooxy)acetate | 0.15 mmol, 50 mg | C1(=CC=CC2=CC=CC=C12)CNC(NOCC(=O)OC(C)(C)C)=O | C18H22N2O4
reactant | HCl dioxane | 4N, 2 ml | Cl.O1CCOCC1
product | 2-(3-(naphthalen-1-ylmethyl)ureidooxy)acetic Acid | 41 mg, 100% | C1(=CC=CC2=CC=CC=C12)CNC(NOCC(=O)O)=O | C14H14N2O4
